US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(2-ethoxy-5-nitro-phenyl)-acrylonitrile (Compound 52)
2-Ethoxy-5-nitrobenzaldehyde (390 mg) and 3,4-dimethoxybenzyl cyanide (354 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (319 mg, yield: 45%).

reactant | 2-Ethoxy-5-nitrobenzaldehyde | 390 mg | C(C)OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C9H9NO4
reactant | 3,4-dimethoxybenzyl cyanide | 354 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(2-ethoxy-5-nitro-phenyl)-acrylonitrile | 319 mg, yield: 45% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=C(C=CC(=C1)[N+](=O)[O-])OCC | C19H18N2O5
